*** Analog input filter (minus op-amp) ***

.func LIMIT(x,a,b) {min(max(x, a), b)}
.func PWR(x,a) {abs(x) ** a}
.func PWRS(x,a) {sgn(x) * PWR(x,a)}
.func stp(x) {u(x)}

* +/- 12V supplies
v12p V12+ 0 dc 12V
v12n V12- 0 dc -12V
vqst VQ   0 dc 2.5V

* inp filter
r5 inp 0 100Kohm
c11 2 inp 10uF
r7 2 VQ 10Kohm
c15 VQ 0 0.1uF

* inn filter, grounded out
r99 inn 0 0ohm
r6 inn 0 100Kohm
c12 3 inn 10uF
r8 3 VQ 10Kohm

* inp opamp and output
*x2a 2 4 V12+ V12- 5 LM741/NS
c13 4 5 470pF
r11 5 6 91ohm
r9  4 6 634ohm
r13 6 ainp 200ohm

* inn opamp and output
*x2b 3 7 V12+ V12- 8 LM741/NS
C14 7 8 470pF
r12 8 9 91ohm
r10 7 9 634ohm
r14 9 ainn 200ohm

r15 ainp ainn 200ohm
c16 ainp ainn 2700pF
